US07906546B2
To 0.5 g (3.9 mmol) of 6-chloro-pyridin-3-ylamine in 6 mL of 12M HCl at −20° C. were added a solution of 0.36 g (5.2 mmol, 1.3 eq) of sodium nitrite dissolved in 2 mL of H20. The reaction mixture was stirred for 15 min, and 4.4 g (19.5 mmol, 5 eq) of tin chloride dihydrate dissolved in 2 mL of 12M HCl were added. The reaction mixture was allowed to reach 0° C. within 40 min, and the white precipitate was recovered by filtration and washed with Et2O to yield 0.35 g (62%) of (6-chloro-pyridin-3-yl)-hydrazine hydrochloride as a white solid, MS: 144 (MH+).

reactant | 6-chloro-pyridin-3-ylamine | 3.9 mmol, 0.5 g | ClC1=CC=C(C=N1)N | C5H5ClN2
reactant | sodium nitrite | 5.2 mmol, 0.36 g, 1.3 eq | N(=O)[O-].[Na+]
reactant | tin chloride dihydrate | 19.5 mmol, 4.4 g, 5 eq | O.O.[Sn](Cl)(Cl)(Cl)Cl
solvent | HCl | 12M, 6 mL | Cl | ClH
solvent | HCl | 12M, 2 mL | Cl | ClH
product | (6-chloro-pyridin-3-yl)-hydrazine hydrochloride | 0.35 g, 62% | Cl.ClC1=CC=C(C=N1)NN | InChI=1S/C5H6ClN3.ClH/c6-5-2-1-4(9-7)3-8-5;/h1-3,9H,7H2;1H
